US07812028B2
c) 6-(2-Chloro-phenyl)-5-pyrrolidin-1-yl-pyrazine-2-carboxylic Acid Methyl Ester
To a solution of 5-bromo-3-(2-chloro-phenyl)-2-pyrrolidin-1-yl-pyrazine (0.25 g) in 7 ml methanol was added 2 ml ethyl acetate, 0.035 g [1,1′-bis(diphenylphosphino)-ferrocen]palladium(II)chloride 1:1 complex with dichloromethane and 0.25 ml triethylamine and the mixture was stirred at 110° C. under 70 bar carbon monoxide for 18 h. The reaction mixture was evaporated and the residue was purified by chromatography on silica gel with heptane:ethyl acetate=2:1 to yield 0.15 g of the title compound as off-white foam, MS (ISP) 318.1 (M+H)+.

reactant | 5-bromo-3-(2-chloro-phenyl)-2-pyrrolidin-1-yl-pyrazine | 0.25 g | BrC=1N=C(C(=NC1)N1CCCC1)C1=C(C=CC=C1)Cl | C14H13BrClN3
reactant | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | carbon monoxide | [C]=O | CO
solvent | methanol | 7 ml | CO | CH4O
catalyst | [1,1′-bis(diphenylphosphino)-ferrocen]palladium(II)chloride | 0.035 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
product | 6-(2-Chloro-phenyl)-5-pyrrolidin-1-yl-pyrazine-2-carboxylic Acid Methyl Ester | 0.15 g | COC(=O)C1=NC(=C(N=C1)N1CCCC1)C1=C(C=CC=C1)Cl | C16H16ClN3O2
